US07071201B2
348-2) 1-[1-(2-Fluorophenethyl)piperidin-4-yl]-6-bromoindoline
Triacetoxylated sodium borohydride (15.0 g) was added under ice cooling to a liquid mixture of 6-bromoindoline (9.0 g), 1-(2-fluorophenethyl)piperidin-4-one (11.0 g) and acetic acid (12.5 ml) in 1,2-dichloroethane (140 ml). Then the reaction mixtures were stirred at room temperature overnight. The reaction mixtures were diluted with ethyl acetate (400 ml) and then an 8 N aqueous solution (70 ml) of sodium hydroxide was added thereto. The organic layer was separated, extracted with 5 N hydrochloric acid (100 ml) and then basified with an 8 N aqueous solution of sodium hydroxide. Then it was extracted with ethyl acetate and washed successively with water and brine. The ethyl acetate layer was dried over magnesium sulfate and the solvent was evaporated distilled off under reduced pressure to give the title compound (12.2 g) as a pale yellow solid (yield: 66.6%). 2.10(2H,dt,J=7.6,2.8 Hz), 2.48-2.53(2H,m), 2.77(2H,t, J=8.4 Hz), 2.83(2H,t,J=8.4 Hz), 2.96-3.03(2H,br-d), 3.37(2H,t,J=8.4 Hz), 3.34-3.43(1H,m), 6.57(1H,d,J=1.2 Hz), 6.61(1H,dd,J=7.6,1.2 Hz), 6.90(1H,d,J=7.6 Hz), 7.10-7.16(2H,m), 7.21-7.28(1H,m), 7.33(1H,dt,J=7.6,1.2 Hz).

reactant | 6-bromoindoline | 9.0 g | BrC1=CC=C2CCNC2=C1 | C8H8BrN
reactant | 1-(2-fluorophenethyl)piperidin-4-one | 11.0 g | FC1=C(CCN2CCC(CC2)=O)C=CC=C1 | C13H16FNO
reactant | acetic acid | 12.5 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,2-dichloroethane | 140 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 1-[1-(2-Fluorophenethyl)piperidin-4-yl]-6-bromoindoline | 12.2 g, yield: 66.6% | FC1=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)Br)C=CC=C1 | C21H24BrFN2
